US06022894
EXAMPLE 45: Preparation of N-(2-Hydroxydec-9-enyl)-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine.
Using the method of Example 5, supra, 1,2-epoxy-9-decene (202 mg, 1.0 mmol) and 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine (197 mg, 1.1 mmol) were used to prepare 80 mg of the title compound as a clear, colorless oil: GC/EI-MS, m/z (rel. int.) 334 (M+1, 0.02), 318 (0.7), 212 (100), 194 (13), 163 (11), 121 (23); 1H-NMR (CDCl3) δ 7.06 (2H, d, J=8.6), 6.80 (2H, d, J=8.6), 5.79 (1H, dddd, J=23.1, 10.2, 6.6 and 6.6), 4.95 (2H, m), 3.77 (3H, s), 3.52 (1H, m), 2.76 (1H, dd, J=11.7 and 3.0), 2.64 (1H, s), 2.39 (1H, dd, J=11.6 and 9.4), 2.03 (2H, m), 1.33 (10H, m), 1.05 (6H, s): 13C-NMR (CDCl3) δ 158.1, 139.1, 131.4, 129.8, 114.1, 113.4, 69.8, 55.2, 53.7, 47.8, 46.5, 35.1, 33.8, 29.6, 29.0, 28.8, 26.6, 26.4, 25.7; FT-IR (film) cm-1 3387 (broad, s), 1612, 1512, 1246, 1038, 910, 760.

reactant | 1,2-epoxy-9-decene | 1.0 mmol, 202 mg | O1CC1CCCCCCC=C | C10H18O
reactant | 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 1.1 mmol, 197 mg | CC(CC1=CC=C(C=C1)OC)(C)N | C11H17NO
product | N-(2-Hydroxydec-9-enyl)-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 80 mg | OC(CNC(CC1=CC=C(C=C1)OC)(C)C)CCCCCCC=C | C21H35NO2
